US07291631B2
To a solution of 4-aminobutyraldehyde dimethyl acetal (2.73 g, 20.5 mmol) in THF (50 mL) was added 1,1′-carbonyldiimidazole (3.39 g, 20.9 mmol) and the resultant mixture was stirred at room temperature for 45 minutes. The mixture was concentrated under reduced pressure and the residue was dissolved in DMF (50 mL) and treated with DIPEA (18 mL, 103 mmol) and benzyloxyamine hydrochloride (10.2 g, 64.0 mmol). The mixture was heated at 60° C. overnight then concentrated under reduced pressure. The residue was dissolved in EtOAc (200 mL) and the solution was washed with brine (5×25 mL), dried (MgSO4), and concentrated. Purification of the crude material by column chromatography on silica gel (4:1 hexanes—EtOAc followed by 100% EtOAc) provided 4.29 g (73%) of 3-(4,4-dimethoxy-butyl)-1-(benzyloxy)-urea as a yellow oil.

reactant | 4-aminobutyraldehyde dimethyl acetal | 20.5 mmol, 2.73 g | COC(CCCN)OC | C6H15NO2
reactant | 1,1′-carbonyldiimidazole | 20.9 mmol, 3.39 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | DIPEA | 103 mmol, 18 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | benzyloxyamine hydrochloride | 64.0 mmol, 10.2 g | Cl.C(C1=CC=CC=C1)ON
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-(4,4-dimethoxy-butyl)-1-(benzyloxy)-urea | 4.29 g, 73% | COC(CCCNC(NOCC1=CC=CC=C1)=O)OC | C14H22N2O4
